US08492372B2
2-(HYDROXYMETHYL)-5-(TRIFLUOROMETHYL)PHENOL
To a solution of 2-hydroxy-4-(trifluoromethyl)benzoic acid (5.0 g, 24.3 mmol) in dry DEE (150 ml), under nitrogen atmosphere, lithium aluminium hydride (1.11 g, 29.2 mmol) was added in portions. The reaction mixture was stirred for 12 h at ambient temperature and then quenched with water and NaOH (5 M). Aqueous HCl (10%) was added and the aqueous phase was extracted with EtOAc. The combined organic phases were dried (Na2SO4), filtered and evaporated to dryness. The residue was purified by flash column chromatography (isooctane/EtOAc 1:1) to give the title compound (2.55 g). MS m/z (rel. intensity, 70 eV) 192 (M+, 32), 174 (45), 146 (bp), 145 (62), 96 (54).

reactant | 2-hydroxy-4-(trifluoromethyl)benzoic acid | 24.3 mmol, 5.0 g | OC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H5F3O3
reactant | lithium aluminium hydride | 29.2 mmol, 1.11 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(HYDROXYMETHYL)-5-(TRIFLUOROMETHYL)PHENOL | 2.55 g | OCC1=C(C=C(C=C1)C(F)(F)F)O | C8H7F3O2
